US07265132B2
4-Acetylamino-N-[1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-3,3-dimethyl-butyl]-benzamide
The title compound was prepared from 4-amino-4-cyano-tetrahydropyran, L-neopentyl glycine and 4-acetylaminobenzoic acid analogous to the procedure described in Example 24.

reactant | 4-amino-4-cyano-tetrahydropyran | NC1(CCOCC1)C#N | C6H10N2O
reactant | L-neopentyl glycine | CC(C)(C)C[C@@H](C(=O)O)N | C7H15NO2
reactant | 4-acetylaminobenzoic acid | C(C)(=O)NC1=CC=C(C(=O)O)C=C1 | C9H9NO3
product | 4-Acetylamino-N-[1-(4-cyano-tetrahydro-pyran-4-ylcarbamoyl)-3,3-dimethyl-butyl]-benzamide | C(C)(=O)NC1=CC=C(C(=O)NC(CC(C)(C)C)C(NC2(CCOCC2)C#N)=O)C=C1 | C22H30N4O4
